US06291513B1
A solution of bis(trimethylsilyl)acetylene and allyl isocyanate in dry solvent is treated with an excess (at least 2 molar equivalents) of an acid catalyst. The preferred acid catalysts include aluminum chloride, ferric chloride and methanesulfonic acid; the most preferred acid catalyst is methanesulfonic acid. Acid catalysts which have been found not to work include: titanium tetrachloride, zinc chloride (in diethyl ether), Amberlyst 15 and Dowex 50 ion exchange resins, and gaseous hydrochloric acid in dioxane. 1,2-dichloroethane and o-dichlorobenzene are preferred solvents, the most preferred solvent is dichloromethane. The concentration of bis(trimethylsilyl) acetylene in the above reaction is preferred to be 1 molar or lower. The reaction is monitored by gas chromatography, and when product formation is complete the mixture is poured into water or saturated sodium bicarbonate and extracted with ethyl acetate. The organic phase is washed with water and brine, dried over sodium sulfate, filtered and evaporated to give an oil. When methanesulfonic acid is used as the catalyst, the oil may be used without further purification. When aluminum chloride is used as the catalyst, the oil is distilled under vacuum in a Kugelrohr apparatus (from about 100 to about 130° C. at from about 0.5 to about 1.0 Torr) to give the N-allyl-3-trimethylsilylpropiolic amide.

reactant | bis(trimethylsilyl)acetylene | C[Si](C)(C)C#C[Si](C)(C)C | C8H18Si2
reactant | allyl isocyanate | C(C=C)N=C=O | C4H5NO
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
reactant | hydrochloric acid | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | titanium tetrachloride | [Ti](Cl)(Cl)(Cl)Cl
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | o-dichlorobenzene | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | N-allyl-3-trimethylsilylpropiolic amide | C(C=C)NC(C#C[Si](C)(C)C)=O | C9H15NOSi
